US09102664B2
Preparation of 4-(2,4-difluorophenyl)pent-4-enoic acid (Formula-2)
To a mixture of 4-(2,4-difluorophenyl)-4-oxobutanoic acid (100 g) and toluene (1000 ml), added methyl triphenylphosphine iodide (377.5 g) and sodium tertiary butoxide (183 g) at 25-30° C. Heated the reaction mixture to 50-55° C. and stirred for 6-8 hours at the same temperature. After completion of the reaction, cooled the reaction mixture to 25-30° C. Water was added to the reaction mixture and both organic and aqueous layers were separated. pH of aqueous layer was adjusted to 11 using 50% hydrochloric acid. Extracted the aqueous layer with toluene and washed the aqueous layer with dichloromethane. pH of the aqueous layer was further adjusted to 2.5 using 50% HCl and the reaction mixture was stirred for 45 minutes. Filtered the obtained solid, washed with water and then dried to get the title compound. Cyclohexane (500 ml) was added to the obtained solid and heated to 45-50° C. Carbon (10 g) was added to the reaction mixture and stirred for 15 minutes. Filtered the reaction mixture and washed with hot cyclohexane. Distilled off half of the solvent under reduced pressure. Cooled the reaction mixture to 10-15° C. and stirred for 60 minutes at the same temperature. Filtered the solid and washed with chilled cyclohexane and dried to get the title compound. Yield: 65.75 g

reactant | 4-(2,4-difluorophenyl)-4-oxobutanoic acid | 100 g | FC1=C(C=CC(=C1)F)C(CCC(=O)O)=O | C10H8F2O3
reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl triphenylphosphine iodide | 377.5 g | [I-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium tertiary butoxide | 183 g | CC(C)([O-])C.[Na+]
solvent | Water | O | H2O
product | 4-(2,4-difluorophenyl)pent-4-enoic acid | FC1=C(C=CC(=C1)F)C(CCC(=O)O)=C | C11H10F2O2
